US04159273
(a) 5-Chloro-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylic acid
Ethyl 5amino-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate (7.2 g) in concentrated hydrochloric acid (90 ml) was treated with sodium nitrite (1.8 g) in water (15 ml) with stirring at 0° over 15 minutes.

reactant | Ethyl 5amino-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylate | 7.2 g | NC1=C2CCCCC2=C(C=2OC(=CC(C21)=O)C(=O)OCC)CCC | C19H23NO4
reactant | sodium nitrite | 1.8 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 90 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 5-Chloro-6,7,8,9-tetrahydro-4-oxo-10-propyl-4H-naphtho[2,3-b]pyran-2-carboxylic acid | ClC1=C2CCCCC2=C(C=2OC(=CC(C21)=O)C(=O)O)CCC | C17H17ClO4
